US04199506
Preparation of Ethyl 2-Ethoxy-4-Triethoxymethyl-5-Thiazolecarboxylate.
To a warm solution of sodium ethoxide prepared from 2.0 g (0.0869 mole) of Na and 50 ml. of ethanol was added 5.2 g (0.02 mole) of ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate. The mixture was stirred for 4 hours. Ethanol was removed under reduced pressure. The residue was treated with water and extracted with ether. The ether solution was washed with saturated sodium bicarbonate, dried (MgSO4) and concentrated under reduced pressure. The residue was distilled to give 2.2 g of the desired product as an oil, b.p. 115° C. at 0.1 mm; nD25 =1.4776.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 0.02 mole, 5.2 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO2S
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 2-Ethoxy-4-Triethoxymethyl-5-Thiazolecarboxylate | 2.2 g | C(C)OC=1SC(=C(N1)C(OCC)(OCC)OCC)C(=O)OCC | C15H25NO6S
